US07214681B2
(E)-N-(5-Chlorothiazol-2-yl)-2-(4-methanesulfonylphenyl)-3-thiophen-2-ylacrylamide
A solution of (E)-2-(4-methanesulfonylphenyl)-3-thiophen-2-ylacrylic acid (Preparation 2, 309 mg, 1.0 mmol), HATU (813 mg, 2.1 mmol), 5-chlorothiazol-2-ylamine hydrochloride (258 mg, 1.5 mmol), and DIPEA (0.71 mL, 4.0 mmol) in anhydrous DMF (5 mL) was heated under microwave irradiation with stirring at 60° C. for 2 min. The solvents were evaporated off under reduced pressure, then the remainder was partitioned between CH2Cl2 (60 mL) and 1M HCl (60 mL). The organic layer was separated and washed with 1M HCl (60 mL), H2O (60 mL), saturated aqueous Na2CO3 (2×60 mL), H2O (60 mL), and brine (60 mL), before being dried (Na2SO4). Filtration, solvent evaporation, and flash chromatography (IH-EtOAc, 4:1 to 2:3) gave the title compound: RTA=3.77 min; m/z (ES+)=466.1 [M+MeCN+H]+.

reactant | (E)-2-(4-methanesulfonylphenyl)-3-thiophen-2-ylacrylic acid | 1.0 mmol, 309 mg | CS(=O)(=O)C1=CC=C(C=C1)/C(/C(=O)O)=C\C=1SC=CC1 | C14H12O4S2
reactant | HATU | 2.1 mmol, 813 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-chlorothiazol-2-ylamine hydrochloride | 1.5 mmol, 258 mg | Cl.ClC1=CN=C(S1)N
reactant | DIPEA | 4.0 mmol, 0.71 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (E)-N-(5-Chlorothiazol-2-yl)-2-(4-methanesulfonylphenyl)-3-thiophen-2-ylacrylamide | ClC1=CN=C(S1)NC(\C(=C\C=1SC=CC1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H13ClN2O3S3
